Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Motrin / verapamil
 
Attending: ___.
 
Chief Complaint:
foreign body esophageal impaction 
 
Major Surgical or Invasive Procedure:
EGD on ___

 
History of Present Illness:
Ms. ___ is a ___ female with history of HTN,
HLD, prediabetes who presents with odynophagia.

Patient ate fish last evening but then suddenly felt a sharp
stabbing pain in her throat, and some dysphagia followed by
odynophagia. She had no fever, shortness of breath, change in
voice, chest pain, nausea, or vomiting. She tried to drink water
to help but it didn't, she was able to tolerate PO liquid 
intake.

At OSH she had CT scan showing linear foreign body lodged at C6
level in the esophagus. She was transferred to ___ ED.

In our ED: GI was consulted
 
Past Medical History:
HTN, HLD, prediabetes

 
Social History:
___
Family History:
Mother: died at ___ of stroke
Father: Died ___ of unknown causes
 
Physical Exam:
97.8
PO 117 / 71 83 18 100 RA  

GENERAL: Alert and in no apparent distress
EYES: Anicteric, pupils equally round
ENT: Ears and nose without visible erythema, masses, or trauma. 
Oropharynx without visible lesion, erythema or exudate
CV: Heart regular, no murmur
RESP: Lungs clear to auscultation with good air movement
bilaterally.  Breathing is non-labored
GI: Abdomen soft, non-distended, non-tender to palpation.  Bowel
sounds present.  No HSM
GU: No suprapubic fullness or tenderness to palpation
MSK: Neck supple, moves all extremities, strength grossly full
and symmetric bilaterally in all limbs
PSYCH: pleasant, appropriate affect
NEUROLOGIC:
MENTATION: alert and cooperative. Oriented to person and place
and time.
 
Pertinent Results:
___ 02:30AM BLOOD WBC-5.3 RBC-4.61 Hgb-13.8 Hct-41.0 MCV-89 
MCH-29.9 MCHC-33.7 RDW-13.3 RDWSD-43.3 Plt ___
___ 02:30AM BLOOD Neuts-64.5 ___ Monos-8.8 Eos-2.4 
Baso-0.6 Im ___ AbsNeut-3.43 AbsLymp-1.25 AbsMono-0.47 
AbsEos-0.13 AbsBaso-0.03
___ 02:30AM BLOOD ___ PTT-32.3 ___
___ 02:30AM BLOOD Glucose-98 UreaN-12 Creat-0.6 Na-144 
K-4.1 Cl-105 HCO3-23 AnGap-16

OSH CT:
Notable for linear density at C6 level in esophagus consistent 
with a fish bone

EGD ___:
Small fish bone 2 cm in length found lodged 1 cm below upper 
esophageal introitus. Mild mucosa erythema surrounding the fish 
bone. The fish bone was removed. Unremarkable EGD otherwise.
 
Brief Hospital Course:
Ms. ___ is a ___ female with
history of HTN, HLD, prediabetes who presents with odynophagia.

#Foreign body lodged in esophagus
#Odynophagia
-She is s/p EGD ___
with removal of the fishbone at level of upper esophageal
sphincter. Tolerated clears then solid diet on ___. 

#HTN
-Continue home amlodipine  

#HLD
-Continue home statin

#Prediabetes
-Continue outpatient management after discharge
-Continue home metformin on discharge

Greater than 30 minutes was spent on discharge planning and 
coordination.
 
Medications on Admission:
1. MetFORMIN (Glucophage) 1000 mg PO DAILY 
2. amLODIPine 2.5 mg PO DAILY 
3. Aspirin 81 mg PO DAILY 
4. Atorvastatin 10 mg PO QPM 
5. Calcium Carbonate 1500 mg PO BID 
6. Vitamin D 1000 UNIT PO DAILY 

 
Discharge Medications:
1.  amLODIPine 2.5 mg PO DAILY  
2.  Aspirin 81 mg PO DAILY  
3.  Atorvastatin 10 mg PO QPM  
4.  Calcium Carbonate 1500 mg PO BID  
5.  MetFORMIN (Glucophage) 1000 mg PO DAILY  
6.  Vitamin D 1000 UNIT PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
foreign body esophageal impaction 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Instructions: Dear Ms. ___, 

It was a pleasure to be a part of your care team at ___ 
___.

====================================
Why did you come to the hospital? 
====================================

-You had pain in the throat.

====================================
What happened at the hospital? 
====================================

-You were found to have a fish bone stuck in the esophagus. This 
was confirmed by CT scan imaging and endoscopy test.
-Endoscopy test also removed the bone.
-You then had a test of solid diet and you did well, so you can 
return home.

==================================================
What needs to happen when you leave the hospital? 
==================================================

-Please chew carefully to avoid foreign body esophageal 
impaction in the future 
-No home medications were changed on discharge

It was a pleasure taking care of you during your stay! 

Sincerely, 

Your ___ team  

 
Followup Instructions:
___